US04994461
F. 2-Bromoethyl 2-(3-nitrobenzylidene)-acetoacetate
405 g of 2-bromoethyl acetoacetate are dissolved in 1500 ml of isopropanol. 293 g of 3-nitrobenzaldehyde, 4.6 g of acetic acid and 6.8 g of piperidine are added while stirring. The mixture is stirred at 40° C. until a clear solution has formed. The solution is allowed to cool slowly, seeded with a few crystals of the title compound and stirred at room temperature for 48 h and then cooled, and the product is filtered off under suction, washed with cold isopropanol and dried in vacuo at 50° C. 495 g of the title compound of m.p. 94.5°-95.5° C. are obtained.

reactant | 2-bromoethyl acetoacetate | 405 g | C(CC(=O)C)(=O)OCCBr | C6H9BrO3
reactant | 3-nitrobenzaldehyde | 293 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetic acid | 4.6 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 6.8 g | N1CCCCC1 | C5H11N
solvent | isopropanol | 1500 ml | C(C)(C)O | C3H8O
product | 2-Bromoethyl 2-(3-nitrobenzylidene)-acetoacetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCBr)C(=O)C)C=CC1 | C13H12BrNO5
